US04077982
3-Benzyloxy-1,5-dioxaspiro[5.5]undecane
Using the procedure of Example 51, cyclohexanone and 2benzyloxy-1,3-propanediol were reacted, using benzene as solvent, to give after distillation, 3-benzyloxy-1,5-dioxaspiro[5.5]undecane, b.p. 120°-121°/0.05 mm. The ir spectrum was consistent with the assigned structure.

reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | 2benzyloxy-1,3-propanediol | C(C1=CC=CC=C1)OC(CO)CO | C10H14O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-Benzyloxy-1,5-dioxaspiro[5.5]undecane | C(C1=CC=CC=C1)OC1COC2(OC1)CCCCC2 | C16H22O3
